US07544679B2
A solution of 210 mg (0.94 mmol) (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one and 215 mg (0.94 mmol) (RS)-2-hydroxy-2-methyl-N-(3,3,3-trifluoro-propyl)-malonamic acid in 50 ml tetrahydrofuran were cooled to 0° C. and 129 mg (0.94 mmol) 1-hydroxy-benzotriazole hydrate, 327 μl (1.87 mmol) diisopropylethylamine and 183 mg (0.94 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added. Stirring was continued overnight at room temperature. The mixture was poured on ice/water and 1 N aqueous hydrochloric acid was added until pH=1 was reached. Extraction with first diethylether and second with ethylacetate, washing with saturated aqueous sodium hydrogen carbonate solution and brine and chromatography on silicagel with ethylacetate/heptane 2/1 yielded 150 mg (41%) (R/S)-2-hydroxy-2-methyl-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(3,3,3-trifluoro-propyl)-malonamide as a white solid, MS (m/e): 436.1 (M+H)+.

reactant | (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one | 0.94 mmol, 210 mg | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
reactant | (RS)-2-hydroxy-2-methyl-N-(3,3,3-trifluoro-propyl)-malonamic acid | 0.94 mmol, 215 mg | OC(C(=O)O)(C(=O)NCCC(F)(F)F)C | C7H10F3NO4
reactant | 1-hydroxy-benzotriazole hydrate | 0.94 mmol, 129 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 1.87 mmol, 327 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.94 mmol, 183 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (R/S)-2-hydroxy-2-methyl-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-N′-(3,3,3-trifluoro-propyl)-malonamide | 150 mg, 41% | OC(C(=O)N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)(C(=O)NCCC(F)(F)F)C | C21H20F3N3O4
